US07989438B2
Step 9: (7R)-7-[(2-aminoethyl)(methyl)amino]-14-cyclohexyl-N-{[methyl(2-oxoethyl)amino]sulfonyl}-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxamide
A solution of tert-butyl {2-[{(7R)-14-cyclohexyl-11-[({[(2,2-dimethoxyethyl)-(methyl)amino]sulfonyl}amino)carbonyl]-7,8-dihydro-6H-indolo[1,2-e][1,5]-benzoxazocin-7-yl}(methyl)amino]ethyl}carbamate (0.03 M) in DCM was treated with TFA (100 eq) and water (180 eq) at RT and the resulting mixture stirred vigorously for 3 h at 40° C. The volatiles were removed in vacuo and the residue diluted with Et2O and re-evaporated to drive off excess TFA. The product was used in the subsequent step without further purification. MS (ES+) m/z 582 (M+H)+; 600 (M+H2O+H)+.

reactant | tert-butyl {2-[{(7R)-14-cyclohexyl-11-[({[(2,2-dimethoxyethyl)-(methyl)amino]sulfonyl}amino)carbonyl]-7,8-dihydro-6H-indolo[1,2-e][1,5]-benzoxazocin-7-yl}(methyl)amino]ethyl}carbamate | 0.03 M | C1(CCCCC1)C=1C=2C=CC(=CC2N2C[C@H](COC3=C(C21)C=CC=C3)N(CCNC(OC(C)(C)C)=O)C)C(=O)NS(=O)(=O)N(C)CC(OC)OC | C37H53N5O8S
reactant | TFA | 100 eq | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | water | 180 eq | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (7R)-7-[(2-aminoethyl)(methyl)amino]-14-cyclohexyl-N-{[methyl(2-oxoethyl)amino]sulfonyl}-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxamide | NCCN([C@H]1COC2=C(C=3N(C1)C=1C=C(C=CC1C3C3CCCCC3)C(=O)NS(=O)(=O)N(CC=O)C)C=CC=C2)C | C30H39N5O5S
